US05698720
Pivaloyloxymethyl 17β-{N-[1-(4-methoxyphenyl)-1-methylethyl]carbamoyl}androsta-3,5-diene-3-carboxylate (Compound No. 145)
1 ml of pivaloyloxymethyl iodide was added, whilst ice-cooling, to 15 ml of a dimethylacetamide solution containing 196 mg of sodium 17β-{N-[1-(4-methoxyphenyl)-1-methylethyl]carbamoyl}androsta-3,5-diene-3-carboxylate (prepared by reacting the compound obtained as described in Example 2 with sodium hydroxide in a conventional salification process). The resulting solution was then stirred for 1 hour, whilst ice-cooling, after which it was diluted with ethyl acetate, washed with water, and dried over anhydrous sodium sulfate. The solvent was then removed by evaporation under reduced pressure. The resulting residue was subjected to silica gel column chromatography using a gradient elution method, with solutions of from 1 to 3% by volume of acetone in methylene chloride as the eluent, to give 157 mg of the title compound.

reactant | pivaloyloxymethyl iodide | 1 ml | C(C(C)(C)C)(=O)OCI | C6H11IO2
reactant | dimethylacetamide | 15 ml | CC(=O)N(C)C | C4H9NO
reactant | sodium 17β-{N-[1-(4-methoxyphenyl)-1-methylethyl]carbamoyl}androsta-3,5-diene-3-carboxylate | 196 mg | COC1=CC=C(C=C1)C(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Pivaloyloxymethyl 17β-{N-[1-(4-methoxyphenyl)-1-methylethyl]carbamoyl}androsta-3,5-diene-3-carboxylate | 157 mg | COC1=CC=C(C=C1)C(C)(C)NC(=O)[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C=C(CC[C@]3(C)[C@H]1CC2)C(=O)OCOC(C(C)(C)C)=O | C37H51NO6
